US05208397
Mixtures of 2,2-dichloro-1,1,1,2-tetrafluoroethane (CFC-114a), dichlorodifluoromethane (CFC-12) and hydrogen were fed to a reactor operated at several temperatures for 92 hours. For a 10.5 hour period at 600° C., at an average time in synthesis of 38 hours, with liquid feed rates of 11.9 mL/hr of CFC-114a and 1.2 mL/hr of CFC-12 and a hydrogen feed rate of 500 cc/min (1 atm. and room temperature basis); a molar ratio of (CFC-114a+CFC-12):H2 equal to 1:11 was provided, and the organic component of the reactor effluent contained an average (area percent) of 0.97% difluoromethane (HFC-32), 1.57% chlorodifluoromethane (FCFC-22), and 0.25% CFC-12, as well as 37.7% HFC-134A, 56.0% HCFC-124 and 2.8% CFC-114a.

reactant | 2,2-dichloro-1,1,1,2-tetrafluoroethane | ClC(C(F)(F)F)(F)Cl | C2Cl2F4
reactant | dichlorodifluoromethane | ClC(F)(F)Cl | CCl2F2
reactant | hydrogen | [H][H] | H2
reactant | CFC-114a | C(C(F)(Cl)Cl)(F)(F)F | C2Cl2F4
reactant | CFC-12 | C(F)(F)(Cl)Cl | CCl2F2
product | CFC-114a CFC-12 | C(C(F)(Cl)Cl)(F)(F)F.C(F)(F)(Cl)Cl | InChI=1S/C2Cl2F4.CCl2F2/c3-1(4,5)2(6,7)8;2-1(3,4)5
